### PR TITLE
[Merged by Bors] - feat(RingTheory): Artinian rings over Jacobson rings

### PR DESCRIPTION
**Pull request by alreadydone**
Co-authored-by: Andrew Yang

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/HopkinsLevitzki.lean [hunk 1]
```diff
@@ -29,32 +29,50 @@ import Mathlib.RingTheory.Spectrum.Prime.Noetherian
...
-variable {R M : Type*} [Ring R] [AddCommGroup M] [Module R M]
+variable {R₀ R M : Type*} [Ring R₀] [Ring R] [Module R₀ R]
+  [AddCommGroup M] [Module R₀ M] [Module R M] [IsScalarTower R₀ R R] [IsScalarTower R₀ R M]
 
 open Ideal in
-theorem IsSemiprimaryRing.isNoetherian_iff_isArtinian [IsSemiprimaryRing R] :
-    IsNoetherian R M ↔ IsArtinian R M := by
+theorem IsSemiprimaryRing.isArtinian_imp_finite_and_isNoetherian_iff_isArtinian
+    [IsSemiprimaryRing R] [Module.Finite R₀ (R ⧸ Ring.jacobson R)] :
+    (IsArtinian R M → Module.Finite R₀ M) ∧ (IsNoetherian R M ↔ IsArtinian R M) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/HopkinsLevitzki.lean:38]: Do you think it is worth stating the first half as a separate lemma?

File: Mathlib/RingTheory/KrullDimension/Basic.lean [hunk 2]
```diff
@@ -101,10 +101,12 @@ lemma Ideal.mem_minimalPrimes_iff_isPrime [Ring.KrullDimLE 0 R] {I : Ideal R} :
...
   ⟨(·.1.1), fun _ ↦ I.mem_minimalPrimes_of_krullDimLE_zero⟩
 
+theorem nilradical_le_jacobson (R) [CommRing R] : nilradical R ≤ Ring.jacobson R :=
+  nilradical_eq_sInf R ▸ le_sInf fun _I hI ↦ sInf_le (Ideal.IsMaximal.isPrime ⟨hI⟩)
+
 theorem Ring.jacobson_eq_nilradical_of_krullDimLE_zero (R) [CommRing R] [KrullDimLE 0 R] :
     jacobson R = nilradical R := by
-  refine nilradical_eq_sInf R ▸ (le_sInf fun I hI ↦ sInf_le ?_).antisymm
-    (le_sInf fun _I hI ↦ sInf_le <| Ideal.IsMaximal.isPrime ⟨hI⟩)
+  refine (nilradical_le_jacobson R).antisymm' (nilradical_eq_sInf R ▸ le_sInf fun I hI ↦ sInf_le ?_)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/KrullDimension/Basic.lean:109]: Since you are at it, can you replace the `change` line below with `rw [Set.mem_def, Set.setOf_app_iff] at hI`? Thanks.

File: Mathlib/RingTheory/Jacobson/Semiprimary.lean [hunk 3]
```diff
@@ -45,6 +45,10 @@ theorem IsSemisimpleModule.jacobson_le_annihilator [IsSemisimpleModule R M] :
     have := Module.le_comap_jacobson (LinearMap.toSpanSingleton R M m) hr
     rwa [jacobson_eq_bot] at this
 
+instance (priority := 900) (R) [CommRing R] [IsSemisimpleRing R] : IsReduced R where
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Jacobson/Semiprimary.lean:48]:
```suggestion
instance (priority := low) (R) [CommRing R] [IsSemisimpleRing R] : IsReduced R where
```
Seems the standard way, unless you have a specific reason for `900`.

File: Mathlib/Algebra/Module/Submodule/Range.lean [hunk 4]
```diff
@@ -122,6 +123,11 @@ lemma _root_.Submodule.map_comap_eq_of_le [RingHomSurjective τ₁₂] {f : F} {
     (h : p ≤ LinearMap.range f) : (p.comap f).map f = p :=
   SetLike.coe_injective <| Set.image_preimage_eq_of_subset h
 
+lemma range_restrictScalars {R S M N : Type*} [Semiring R] [Semiring S]
+    [AddCommMonoid M] [AddCommMonoid N] [SMul R S] [Module R M] [Module S M]
+    [Module R N] [Module S N] [CompatibleSMul M N R S] [IsScalarTower R S N] (f : M →ₗ[S] N) :
+  LinearMap.range (f.restrictScalars R) = f.range.restrictScalars R := rfl
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/Submodule/Range.lean:129]:
```suggestion
lemma range_restrictScalars [SMul R R₂] [Module R₂ M] [Module R M₂] [CompatibleSMul M M₂ R R₂]
    [IsScalarTower R R₂ M₂] (f : M →ₗ[R₂] M₂) :
  LinearMap.range (f.restrictScalars R) = f.range.restrictScalars R := rfl
```
Just using the variables already in scope.

File: Mathlib/Algebra/Module/Submodule/Range.lean [hunk 5]
```diff
@@ -302,6 +308,12 @@ theorem range_inclusion (p q : Submodule R M) (h : p ≤ q) :
 theorem map_subtype_range_inclusion {p p' : Submodule R M} (h : p ≤ p') :
     map p'.subtype (range <| inclusion h) = p := by simp [range_inclusion, map_comap_eq, h]
 
+lemma restrictScalars_map {R S M N : Type*} [Semiring R] [Semiring S]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/Submodule/Range.lean:311]: Same as above.

File: Mathlib/RingTheory/HopkinsLevitzki.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/HopkinsLevitzki.lean:38]: Seems reasonable to me.

File: Mathlib/RingTheory/Jacobson/Artinian.lean [hunk 6]
```diff
@@ -0,0 +1,48 @@
...
+## Main results
+- `Module.finite_iff_isArtinianRing`: If `A` is a finite type algebra over an artinian ring `R`,
+then `A` is finite over `R` if and only if `A` is an artinian ring.
+
+-/
+
+variable (R A : Type*) [CommRing R] [CommRing A] [Algebra R A] [Algebra.FiniteType R A]
+
+attribute [local instance] IsArtinianRing.fieldOfSubtypeIsMaximal in
+lemma Module.finite_of_isSemisimpleRing [IsJacobsonRing R] [IsSemisimpleRing A] :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Jacobson/Artinian.lean:21]: Can this be an instance?

File: Mathlib/RingTheory/Jacobson/Artinian.lean [hunk 7]
```diff
@@ -0,0 +1,48 @@
...
+    Module.Finite R A :=
+  (Finite.equiv_iff <|
+    (AlgEquiv.ofRingEquiv (f := IsArtinianRing.equivPi A) fun _ ↦ rfl).toLinearEquiv).mpr <|
+  have (I : MaximalSpectrum A) := finite_of_finite_type_of_isJacobsonRing R (A ⧸ I.asIdeal)
+  Finite.pi
+
+/-- If `A` is a finite type algebra over `R`, then `A` is an artinian ring and `R` is jacobson
+implies `A` is finite over `R`. -/
+lemma Module.finite_of_isArtinianRing [IsJacobsonRing R] [IsArtinianRing A] :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Jacobson/Artinian.lean:30]: Same.

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/RingTheory/HopkinsLevitzki.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/RingTheory/HopkinsLevitzki.lean:38]: Maybe I'll extract an induction principle out of this and deduce separate lemmas from it ... I think I can show a semiprimary ring is Noetherian (equivalently, Artinian) iff the Jacobson radical is fg. I'll make a separate PR from branch#IsTwoSided_finite for interaction of finiteness (and more) with IsTwoSided.

Comment (alreadydone) [reply Mathlib/RingTheory/HopkinsLevitzki.lean]: The induction principle has been extracted; the `IsTwoSided_finite` branch is PR'd separately as #22151.

File: Mathlib/RingTheory/Jacobson/Semiprimary.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Jacobson/Semiprimary.lean:48]: I'm following Andrew's [advice](https://github.com/leanprover-community/mathlib4/pull/18686#discussion_r1835316469), though I'm not exactly sure whether it applies here.

File: Mathlib/RingTheory/Jacobson/Artinian.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Jacobson/Artinian.lean:30]: [finite_of_finite_type_of_isJacobsonRing](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Jacobson/Ring.html#finite_of_finite_type_of_isJacobsonRing) isn't an instance yet, so I didn't make these instances. [Module.Finite.finiteType](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/FiniteType.html#Module.Finite.finiteType) is a priority 100 instance, so these should probably get an even lower priority if made instances due to the loopiness. Similar lemmas like [Module.finitePresentation_of_finite](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/FinitePresentation.html#Module.finitePresentation_of_finite) are not made instances due to performance reasons.

Also note that this lemma implies the previous one because Lean can infer that an semisimple ring is artinian.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Jacobson/Artinian.lean:30]: Can you try so we can see the regression? If it is really bad no problem in keeping them as theorem (adding a comment).

**Comment by alreadydone** [comment]
!bench

File: Mathlib/RingTheory/Jacobson/Semiprimary.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/RingTheory/Jacobson/Semiprimary.lean:48]: I think `low` might be the canonical way.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
